US05912352
4-(Pyridin-2-yl)-benzoic acid/isobutyloxyformic acid anhydride
With the exclusion of air, 6.0 g (30 mmol) of 4-(pyridin-2-yl)-benzoic acid are suspended at -20° C. in 90 ml of THF, and 9.90 ml (90 mmol) of N-methyl-morpholine and 4.32 ml (33 mmol) of isobutyl chloroformate are added. After 30 min the mixture is filtered and washed with a small amount of cold THF; the filtrate is partially concentrated by evaporation and the residue is diluted with methylene chloride, washed with ice-water and cold brine, dried (Na2SO4) and concentrated by evaporation to yield the title compound: 1H-NMR (CDCl3) inter alia 8.75 (m, 1H), 8.16 (AB, J=8, 4H), 7.81 (m, 2H), 7.32 (4-line system, J=5, 1H), 4.16 (d, J=7, 2H), 2.10 (9-line system, J=7, 1H), 1.02 (d, J=7, 6H).

reactant | 4-(pyridin-2-yl)-benzoic acid | 30 mmol, 6.0 g | N1=C(C=CC=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO2
reactant | N-methyl-morpholine | 90 mmol, 9.90 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 33 mmol, 4.32 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | THF | 90 ml | C1CCOC1 | C4H8O
product | 4-(Pyridin-2-yl)-benzoic acid isobutyloxyformic acid anhydride | N1=C(C=CC=C1)C1=CC=C(C(=O)O)C=C1.C(C(C)C)OC(=O)OC(=O)OCC(C)C | InChI=1S/C12H9NO2.C10H18O5/c14-12(15)10-6-4-9(5-7-10)11-3-1-2-8-13-11;1-7(2)5-13-9(11)15-10(12)14-6-8(3)4/h1-8H,(H,14,15);7-8H,5-6H2,1-4H3
